US07989457B2
Step C. (4′-Trifluoromethyl-biphenyl-4-yl)-acetonitrile
A mixture of 4′-bromomethyl-4-trifluoromethyl-biphenyl (0.797 g, 2.53 mmol) and potassium cyanide (0.181 g, 2.78 mmol) in N,N-dimethyl-formamide (6 mL) is stirred for eighty-eight hours at room temperature. The mixture is diluted with ethyl acetate and water. Organic phase is washed with water twice then brine, dried over sodium sulfate, filtered and concentrated. Column chromatography on silica gel with 0-40% ethyl acetate/hexane gradient gives 0.295 g (1.13 mmol, 45%) of title compound.

reactant | 4′-bromomethyl-4-trifluoromethyl-biphenyl | 2.53 mmol, 0.797 g | BrCC1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F | C14H10BrF3
reactant | potassium cyanide | 2.78 mmol, 0.181 g | [C-]#N.[K+]
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | N,N-dimethyl-formamide | 6 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | (4′-Trifluoromethyl-biphenyl-4-yl)-acetonitrile | 1.13 mmol, 0.295 g, 45% | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)CC#N)(F)F | C15H10F3N
